US07691867B2
A mixture of 7-[(1-methylpiperidin-4-yl)methoxy}quinazoline-4,6-diol (6.16 g, 21.3 mmol), benzoic anhydride (6.24 g, 27.7 mmol) and diphenyl ether (60 ml) was heated at 100° C. for 2 hours. The reaction mixture was allowed to cool to 50° C. and then diethyl ether and hexane were added to give a solid which was filtered and washed with diethyl ether and hexane. The product was absorbed on to alumina and purified by flash chromatography on alumina eluting with a gradient of 5-20% methanol in dichloromethane to give 4-hydroxy-7-[(1-methylpiperidin-4-yl)methoxy]quinazolin-6-yl benzoate (7.16 g, 86% yield).

reactant | 7-[(1-methylpiperidin-4-yl)methoxy}quinazoline-4,6-diol | 21.3 mmol, 6.16 g | CN1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)O)O | C15H19N3O3
reactant | benzoic anhydride | 27.7 mmol, 6.24 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | diphenyl ether | 60 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 4-hydroxy-7-[(1-methylpiperidin-4-yl)methoxy]quinazolin-6-yl benzoate | 7.16 g, 86% yield | C(C1=CC=CC=C1)(=O)OC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)O | C22H23N3O4
